US06562989B2
N-(4-methoxycarbonylphenyl)-N-methylaniline (Table 9, Entry 2)
According to the general procedure B, methyl 4-chlorobenzoate (172 mg, 1.00 mmol) reacted with N-methylaniline (130 mg, 1.20 mmol) using 1 mol % of Pd(OAc)2, 2 mol % of Ph5FcP(t-Bu)2, and K3PO4 (640 mg, 3.02 mmol) in DME at 100° C for 20 h to give the title compound (240 mg, 97%) as a solid: 1H-NMR (500 MHz, CDCl3): δ 7.89 (d, 2H, J=9.05 Hz), 7.41 (t, 2H, J=7.68 and 8.17 Hz), 7.24-7.21 (m, 3H), 6.79 (d, 2H, J=9.06 Hz), 3.88 (s, 3H), 3.37 (s, 3H). 13C{1H}-NMR (125 MHz, CDCl3): δ 167.09, 152.44, 147.41, 130.91, 129.70, 125.50, 125.24, 119.08, 113.70, 51.47, 40.09. GC/MS(EI): m/z 241 (M+). Anal. Calcd for C15H15NO2: C, 74.67; H, 6.27; N, 5.81. Found: C, 74.74; H, 6.34; N, 5.80.

reactant | methyl 4-chlorobenzoate | 1.00 mmol, 172 mg | ClC1=CC=C(C(=O)OC)C=C1 | C8H7ClO2
reactant | N-methylaniline | 1.20 mmol, 130 mg | CNC1=CC=CC=C1 | C7H9N
reactant | K3PO4 | 3.02 mmol, 640 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DME | COCCOC | C4H10O2
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-(4-methoxycarbonylphenyl)-N-methylaniline | 240 mg, 97% | COC(=O)C1=CC=C(C=C1)N(C1=CC=CC=C1)C | C15H15NO2
